US04536346
4-(p-Methoxycinnamamido)benzoic acid, ethyl ester
To a solution of 10 g. of p-methoxycinnamoyl chloride in 200 ml. of dichloromethane is slowly added a solution of 0.24 g. of benzocaine and 7.1 ml. of triethylamine in 200 ml. of dichloromethane. The mixture is stirred for 19 hours, then the organic layer is washed with 200 ml. of 10% hydrochloric acid followed by 200 ml. of brine, dried over magnesium sulfate, and condensed to a solid. This solid is crystallized from 100 ml. of ethanol, giving 10.6 g. of the desired product as yellow crystals, m.p. 163°-165.5° C.

reactant | p-methoxycinnamoyl chloride | COC1=CC=C(C=CC(=O)Cl)C=C1 | C10H9ClO2
reactant | benzocaine | CCOC(=O)C=1C=CC(=CC1)N | C9H11NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(p-Methoxycinnamamido)benzoic acid, ethyl ester | COC1=CC=C(C=CC(=O)NC2=CC=C(C(=O)OCC)C=C2)C=C1 | C19H19NO4
